US08278319B2
Step-14: tert-Butyl 9-(3,3-difluoroazetidin-1-yl)-9-phenyl-3-azaspiro[5.5]undecane-3-carboxylate
The crude tert-butyl 9-cyano-9-(3,3-difluoroazetidin-1-yl)-3-azaspiro[5.5]-undecane-3-carboxylate was taken up in THF (20 ml) and PhMgBr (12 ml) was added at 0° C. The reaction mixture was stirred at room temperature overnight. The mixture was quenched with NH4Cl solution at 0° C. and was then extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, concentrated and purified by column chromatography (silica gel (100-200)) to obtain the desired compound. Yield: 31%

reactant | tert-butyl 9-cyano-9-(3,3-difluoroazetidin-1-yl)-3-azaspiro[5.5]-undecane-3-carboxylate | C(#N)C1(CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)N1CC(C1)(F)F | C19H29F2N3O2
reactant | PhMgBr | 12 ml | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-Butyl 9-(3,3-difluoroazetidin-1-yl)-9-phenyl-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 31% | FC1(CN(C1)C1(CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C1=CC=CC=C1)F | C24H34F2N2O2
